US07238724B2
dimethyl (2S)-5-methoxypyrrolidine-1,2-dicarboxylate
To a cold solution (−78° C.) of dimethyl (2S)-5-oxopyrrolidine-1,2-dicarboxylate (5.80 g, 28.8 mmol) in tetrahydrofuran (100 mL) was added a solution of lithium triethylborohydride (1 M in THF, 35 mL, 35 mmol) dropwise via syringe over 10 minutes. The resulting solution was stirred at −78° C. for 30 minutes, quenched by the careful addition of saturated sodium bicarbonate solution (50 mL), allowed to warm to 0° C. and 30% hydrogen peroxide (6 mL) was carefully added dropwise. The mixture was stirred for 30 minutes at room temperature, reduced in volume under reduced pressure, and diluted with ethyl acetate (300 mL) and brine (200 mL). The milky aqueous layer was separated and further extracted with ethyl acetate (2×300 mL). The combined organic layers were dried (sodium sulfate), filtered, and concentrated to a light yellow oil. The yellow oil was taken up in methanol (50 mL) containing para-toluenesulfonic acid hydrate (487 mg, 2.6 mmol) and stirred at room temperature for 16 hours. The reaction was diluted with aqueous sodium bicarbonate solution (40 mL), the volatile solvents were removed under reduced pressure and the residue partitioned between ethyl acetate (200 mL) and brine (200 mL). The aqueous layer was further extracted with ethyl acetate (200 mL), the combined organic layers were dried (sodium sulfate), filtered, and concentrated to an oil which was chromatographed on a Biotage 40M with 60% hexane/40% ethyl acetate to provide the titled compound as a mixture of diastereomers. (mixture of rotamers) 1H NMR (300 MHz, CDCl3): δ ppm 5.37 (d, 1H), 5.33 (dd, 1H), 5.24 (d, 1H), 5.18 (dd, 1H), 4.44-4.31 (m, 2H), 3.76 (s, 3H), 3.73 (s, 3H), 3.72 (s, 3H), 3.42 (s, 3H), 3.34 (s, 3H).

reactant | dimethyl (2S)-5-oxopyrrolidine-1,2-dicarboxylate | 28.8 mmol, 5.80 g | O=C1CC[C@H](N1C(=O)OC)C(=O)OC | C8H11NO5
reactant | lithium triethylborohydride | 35 mmol, 1 M, 35 mL | C(C)[BH-](CC)CC.[Li+]
reactant | para-toluenesulfonic acid hydrate | 2.6 mmol, 487 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
product | dimethyl (2S)-5-methoxypyrrolidine-1,2-dicarboxylate | COC1CC[C@H](N1C(=O)OC)C(=O)OC | C9H15NO5
